* IPS70R1K4P7S KiCad/Ngspice Compatible Macro Model
* -------------------------------------------------------------------
* Pins: 1=Drain, 2=Gate, 3=Source
* (Please verify Pin assignment in KiCad Symbol Properties)
* -------------------------------------------------------------------
.SUBCKT IPS70R1K4P7S 1 2 3

* --- Parasitic Resistors ---
* Rg: Gate Resistance (Datasheet: 1.6 Ohm)
Rg 2 20 1.6
* Rd/Rs: Split Rdson (1.15 Ohm total)
Rd 1 10 1.10
Rs 3 30 0.05

* --- Main Switch (NMOS) ---
* Using basic Level 3 model which Ngspice supports well
M1 10 20 30 30 NMOS_CORE L=2u W=1

* --- Parasitic Capacitances ---
* Fixed values approximating the nonlinear behavior
Cgs 20 30 158p
Cgd 20 10 5p
Cds 10 30 130p

* --- Body Diode ---
Dbody 30 10 D_BODY

* --- Models ---
.MODEL NMOS_CORE NMOS (LEVEL=3 KP=3.8 VTO=3.0 GAMMA=0 PHI=0.6)
.MODEL D_BODY D (IS=1n N=1 RS=0.1 TT=130n)

.ENDS IPS70R1K4P7S
