* VO14642 High Speed Solid State Relay SPICE Model (High Sensitivity)
* -------------------------------------------------------------------
* Pinout: 1=A, 2=K, 4=S1, 5=DC, 6=S2
* -------------------------------------------------------------------
.SUBCKT VO14642 1 2 4 5 6

* --- Input Stage (LED) ---
R_limit 1 1x 40
Vsense  1x 1y 0
D_LED   1y 2 D_IR_EMITTER

* --- Control Stage (Photovoltaic Isolation) ---
* FIXED: Gain increased to 0.06 to match Typical If_on = 0.5mA
* This allows operation with 12V + 10k resistor (~1mA)
F1 5 7 Vsense 0.06
R_gate 7 5 100k
C_gate 7 5 800p
D_clamp 5 7 D_Zener

* --- Output Stage (Back-to-Back MOSFETs) ---
M1 4 7 5 5 NMOS_PWR
M2 6 7 5 5 NMOS_PWR

* --- Models ---
.MODEL D_IR_EMITTER D(IS=10p N=2 RS=10 CJO=20p)
.MODEL D_Zener D(BV=8 IBV=10u)
.MODEL NMOS_PWR NMOS(Level=1 KP=10 VTO=3.0 RD=0.02 RS=0.04 lambda=0.001)

.ENDS VO14642
